US20010036946A1
a) 1-(1,1-dimethylethoxycarbonyl)-4-[1-(phenylmethyl)-4-piperidinyl]piperazine
A solution of 15.0 g ( 0.8054 mol) of 1-(1,1-dimethylethoxycarbonyl)piperazine and 14.26 ml (0.08053 mol) of 1-(phenylmethyl)-4-piperidinone in 250 ml of methanol was adjusted to a pH of between 5 and 6 by dropwise addition of acetic acid and mixed in batches with a total of 4.13 g ( 0.0624 mol) of 95% sodium cyanoborohydride, whilst taking care to maintain a pH of 5 to 6 by further dropwise addition of acetic acid. After stirring for 18 hours at room temperature the mixture was evaporated down in vacuo, the residue was made alkaline with soda and divided between water and ethyl acetate. After working up the ethyl acetate phase in the usual way 21.76 g (75.2% of theory) of a highly viscous colourless oil were obtained, Rf=0.66 (FM1).

reactant | 1-(1,1-dimethylethoxycarbonyl)piperazine | 0.8054 mol, 15.0 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
reactant | 1-(phenylmethyl)-4-piperidinone | 0.08053 mol, 14.26 ml | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.0624 mol, 4.13 g | C(#N)[BH3-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 1-(1,1-dimethylethoxycarbonyl)-4-[1-(phenylmethyl)-4-piperidinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1CCN(CC1)CC1=CC=CC=C1)C | C21H33N3O2
